US08461158B2
Reaction of 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-N-(4-piperidinyl)-1,3,5-triazin-2-amine with methane sulfonyl chloride in CH2Cl2 gave 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-[1-(methylsulfonyl)-4-piperidinyl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-1,3,5-triazin-2-amine in 90% yield.

reactant | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-N-(4-piperidinyl)-1,3,5-triazin-2-amine | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(C1CCNCC1)CCCN1CCOCC1)C=CC=C2OC)F | C28H39F2N9O3
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-N-[1-(methylsulfonyl)-4-piperidinyl]-6-(4-morpholinyl)-N-[3-(4-morpholinyl)propyl]-1,3,5-triazin-2-amine | 90% yield | FC(C1=NC2=C(N1C1=NC(=NC(=N1)N1CCOCC1)N(CCCN1CCOCC1)C1CCN(CC1)S(=O)(=O)C)C=CC=C2OC)F | C29H41F2N9O5S
